US07838543B2
Step 1. 4-Cyclohex-2-enyl-benzoic Acid
The title compound is prepared by following a procedure analogous to Example 114, Step 1, and using 4-iodobenzoic acid (3.0 g, 12.10 mmol), and cyclohexene (12.3 mL) to give the product (0.40 g, 1.98 mmol, 16%).

reactant | 4-iodobenzoic acid | 12.10 mmol, 3.0 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | cyclohexene | 12.3 mL | C1=CCCCC1 | C6H10
product | 4-Cyclohex-2-enyl-benzoic Acid | C1(C=CCCC1)C1=CC=C(C(=O)O)C=C1 | C13H14O2
